US07727985B2
The crude N-(6-chloro-8-nitro-9H-β-carbolin-4-yl)-2,2,2-trifluoro-acetamide (130 mg, 0.36 mmol) was dissolved in 7 ml of MeOH and the reaction vessel was vacuum purged 3× with N2. Platinum (20 mg, 20% wt. on activated carbon) was added quickly, and the reaction vessel was again vacuum purged 3× with N2, followed by 3 additional vacuum purge cycles with H2. The reaction was allowed to stir under H2 at 1 atm overnight. Upon completion, the reaction vessel was purged of H2 and filtered over celite. The celite was washed several times with methanol until the filtrates were clear. The combined filtrates were concentrated to give N-(8-amino-6-chloro-9H-β-carbolin-4-yl)-2,2,2-trifluoro-acetamide as a yellow solid (112 mg, 95%).

reactant | N-(6-chloro-8-nitro-9H-β-carbolin-4-yl)-2,2,2-trifluoro-acetamide | 0.36 mmol, 130 mg | ClC=1C=C2C=3C(=CN=CC3NC2=C(C1)[N+](=O)[O-])NC(C(F)(F)F)=O | C13H6ClF3N4O3
solvent | MeOH | 7 ml | CO | CH4O
product | N-(8-amino-6-chloro-9H-β-carbolin-4-yl)-2,2,2-trifluoro-acetamide | 112 mg, 95% | NC=1C=C(C=C2C=3C(=CN=CC3NC12)NC(C(F)(F)F)=O)Cl | C13H8ClF3N4O
